Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
Right breast hematoma.

 
Major Surgical or Invasive Procedure:
Evacuation of hematoma and placement of JP drain.

 
History of Present Illness:
___ h/o AF on Coumadin now POD5 from R breast wire-localization 
excisional biopsy for DCIS on ___ and restarted on Coumadin 
with lovenox bridge. Her surgery was uncomplicated and she was 
admitted overnight and her pain was well controlled and was 
subsequently d/c home.  She now presents on ___ with 
progressively worsening R breast swelling and pain over 
preceding ___ days which prompted her to come to ED for further 
treatment. 
In the ED, there was notable size discrepancy between R and L 
breast with U/S concerning for ~7cm R breast hematoma. WBC 10, 
Hct 27 from 37 pre-op. INR 1.8. She was taken to the OR that 
same day with electrocautery of bleeding vessel(s),and 
ultimately received 1 unit of FFP and PRBCs in the perioperative 
period. 

 
Social History:
___
Family History:
Mother with DM and SLE died at ___ years old of cardiac arrest. 
Father died in his ___ or ___ of MI.

 
Physical Exam:
General: alert, no distress
CV: reg, irreg 
Pulm: clear to auscultation 
Abd: soft, NT
Skin: well-healed midline sternotomy scar; R chest dsg c/d/I, JP 
drain serous sanguineous drainage
Ext: warm well perfused, 3+ non-pitting LLE edema with 
lichenified skin changes
Neuro: alert, oriented to person, place, time

 
Pertinent Results:
___ 06:30AM BLOOD WBC-6.9 RBC-2.87* Hgb-6.8* Hct-21.9* 
MCV-76* MCH-23.7* MCHC-31.1* RDW-16.5* RDWSD-44.1 Plt ___
___ 10:38AM BLOOD WBC-8.4 RBC-3.11* Hgb-7.2* Hct-23.6* 
MCV-76* MCH-23.2* MCHC-30.5* RDW-16.0* RDWSD-43.8 Plt ___
___ 01:22PM BLOOD WBC-8.6 RBC-3.54* Hgb-8.3* Hct-27.1* 
MCV-77* MCH-23.4* MCHC-30.6* RDW-15.6* RDWSD-43.1 Plt ___
___ 10:00PM BLOOD WBC-10.3*# RBC-3.64*# Hgb-8.4*# 
Hct-27.0*# MCV-74* MCH-23.1* MCHC-31.1* RDW-15.8* RDWSD-42.5 Plt 
___
___ 10:38AM BLOOD Glucose-142* UreaN-30* Creat-1.6* Na-139 
K-4.4 Cl-99 HCO3-30 AnGap-14
___ 01:22PM BLOOD Glucose-184* UreaN-32* Creat-1.4* Na-140 
K-4.3 Cl-101 HCO3-26 AnGap-17
___ 01:22PM BLOOD Calcium-8.1* Phos-3.9 Mg-2.2
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a h/o chronic AF on 
Coumadin and DCIS s/p right partial mastectomy on ___ who 
presented ___ with pain and swelling over the surgical site 
and was found to have a 7.0cm hematoma. She was taken to the 
operating room and underwent hematoma evacuation that same day 
with electrocautery of bleeding vessel(s), and ultimately 
received 1 unit of FFP and PRBCs in the perioperative period. 
She tolerated the procedure well and was transferred to the 
floor for postoperative care. 

Cardiology was consulted for assistance in management of 
anticoagulation who felt it would be reasonable for patient to 
restart her Coumadin without bridge. Therefore, her Coumadin was 
restarted on ___ and INR levels were monitored daily. 
___, she was transfused with 1 unit PRBC for hematocrit of 
21.3. Of note, there was no obvious source of bleeding from her 
surgical site and her JP drain was exuding acceptable amounts of 
serosanguinous drainage. Her post-transfusion hematocrit was 
24.3. ___, she was discharged home with ___ for wound 
assessment and JP drain monitoring. Pt will follow-up 
appointment in breast clinic and have next INR level checked on 
___. 
 
Medications on Admission:
Enoxaparin Sodium 100 mg SC Q12H 
Glargine 22 Units Bedtime
Levothyroxine Sodium 112 mcg PO DAILY 
Lisinopril 10 mg PO DAILY 
Simvastatin 20 mg PO QPM 
Torsemide 20 mg PO BID 
Acetaminophen 1000 mg PO TID 
Docusate Sodium 100 mg PO BID 
OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN  severe pain 
Amoxicillin ___ mg PO PREOP 1hour before dental procedure 
Calcitriol 0.5 mcg PO DAILY 
MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
Metoprolol Succinate XL 50 mg PO DAILY 
Warfarin 10 mg PO 2X/WEEK (MO,FR) 
Warfarin 7.5 mg PO 5X/WEEK (___)
 

 
Discharge Medications:
1. Acetaminophen 650 mg PO TID 
2. Calcitriol 0.5 mcg PO DAILY 
3. Glargine 22 Units Bedtime
4. Levothyroxine Sodium 112 mcg PO DAILY 
5. Lisinopril 10 mg PO DAILY 
6. Metoprolol Tartrate 25 mg PO BID 
7. Simvastatin 20 mg PO QPM 
8. Torsemide 20 mg PO BID 
9. Warfarin 10 mg PO 2X/WEEK (MO,FR) 
10. Warfarin 7.5 mg PO 5X/WEEK (___) 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right breast hematoma.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You presented to ___ ED with right breast swelling following 
your right breast excisional biopsy and was found to have a 
right breast hematoma and was subsequently taken back to the 
operating room for evacuation of hematoma and placement of a JP 
drain. Because you had postoperative surgical site bleeding, 
your blood thinners were held and you were evaluated cardiology. 
Per cardiology recommendations your Coumadin was ultimately 
restarted on ___ for management of your Afib. Please go to 
___ lab and have your INR level checked on ___ ___ and 
follow-up with your ___ clinic for dosing. Please note that 
your Lovenox has been discontinued.
You have adequate pain control and your surgical wound is 
healing well without any evidence of infection or bleeding and 
you may return home to finish your recovery. You are being 
discharged home with a drain in place and we have arranged for a 
visiting nurse to assist you with drain care. Drain care is a 
clean procedure. Wash your hands thoroughly with soap and warm 
water before performing drain care. Perform drainage care twice 
a day. Try to empty the drain at the same time each day. Pull 
the stopper out of the drainage bottle and empty the drainage 
fluid into the measuring cup. Record the amount of drainage 
fluid on the record sheet. Reestablish drain suction.

Please Call the office IMMEDIATELY if you have any of the 
following: 
1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s). 
2. A large amount of bleeding from the incision(s) or drain(s). 
3. Fever greater than 101.5 oF 
4. Severe pain NOT relieved by your medication. 

Return to the ER if: 
* If you are vomiting and cannot keep in fluids or your 
medications. 
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you. 
* Any serious change in your symptoms, or any new symptoms that 
concern you. 
* Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

Thank you for allowing us to participate in your care.
Your ___ Team

 
Followup Instructions:
___